US04659717
B. Preparation of 4-benzo[b]thien-2-yl-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, diethyl ester.
A mixture of 3.24 g of benzo[b]thiophene-2-carboxaldehyde, 5.2 ml of ethyl acetoacetate, 2 ml of ammonium hydroxide, and 4 ml of ethanol was heated to reflux for 4 hours. The solution was concentrated in vacuo, at which time a yellow solid precipitated. The solid was recovered by filtration, providing 2.62 g of the desired title product, m.p. 167°-169° C.

reactant | benzo[b]thiophene-2-carboxaldehyde | 3.24 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | ethyl acetoacetate | 5.2 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ammonium hydroxide | 2 ml | [OH-].[NH4+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-benzo[b]thien-2-yl-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, diethyl ester | 2.62 g | S1C2=C(C=C1C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC)C=CC=C2 | C21H23NO4S
